US04187216
1.71 g (0.005 mol) of L-alanyl-L-proline anilide hydrobromide were dissolved in 20 ml of dry pyridine and 1.4 ml (0.01 mol) of trifluoroacetic anhydride were added. The mixture was stirred for 1.5 hours at room temperature and the pyridine was then removed by evaporation. The resulting oil was triturated with toluene, re-evaporated and the residue partitioned between 50 ml of dichloromethane and 50 ml of water. The aqueous layer was re-extracted with 40 ml of dichloromethane. The organic layers were combined, washed in sequence with 80 ml of 1-N hydrochloric acid, 80 ml of water and 80 ml of 5% sodium bicarbonate solution, dried over magnesium sulphate and evaporated to a solid. This solid was treated with petroleum ether, filtered off and dried to yield 1.58 g (89%) of N-trifluoroacetyl-L-alanyl-L-proline anilide of melting point 204°-207° C.; [α]D20 =-134.4° (c=0.98% in glacial acetic acid).

reactant | L-alanyl-L-proline anilide hydrobromide | 0.005 mol, 1.71 g | Br.N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1
reactant | trifluoroacetic anhydride | 0.01 mol, 1.4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-trifluoroacetyl-L-alanyl-L-proline anilide | 1.58 g, 89% | FC(C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1)(F)F | C16H18F3N3O3
